*SRC=1N4736A;DI_1N4736A;Diodes;Zener <=10V; 6.80V  1.00W   Diodes Inc. Zener
*SYM=HZEN
.SUBCKT DI_1N4736A  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 6.05
.MODEL DF D ( IS=60.6p RS=0.620 N=1.10
+ CJO=123p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=12.1f RS=0.209 N=1.00 )
.ENDS


* Philips
*
.SUBCKT 1N4736A 1 2 
* Modified model of 1N4745A, Helmut 
*+ BV = 6.2  --> BV=6.8
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 3E+9 
D1 1 2 1N4736AA
*
.MODEL 1N4736AA D 
+ IS = 1.803E-14 
+ N = 1.167 
+ BV = 6.8 
+ IBV = 0.041 
+ RS = 0.3264 
+ CJO = 6.85E-11 
+ VJ = 0.6947 
+ M = 0.3439 
+ FC = 0.5 
.ENDS* Philips
*


.SUBCKT 1N4735A 1 2 
*
* The Resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 3E+9 
D1 1 2 1N4735aA
*
.MODEL 1N4735AA D 
+ IS = 1.803E-14 
+ N = 1.167 
+ BV = 6.2 
+ IBV = 0.041 
+ RS = 0.3264 
+ CJO = 6.85E-11 
+ VJ = 0.6947 
+ M = 0.3439 
+ FC = 0.5 
.ENDS
