* Library of Advanced Linear Devices, Inc. definitions
*
* Copyright 2004 Advanced Linear Devices, Inc.
*   Neither this library nor any part may be copied without the express
*   written consent of Advanced Linear Devices, Inc.
* PSPICE version
* $Revision:  1.3  $
* $Date:    6 Feb 2004 00:00:00  $
* -----------------------------------------------------------------------------
*
* This library of models and macromodels is being supplied to users as an aid to
* circuit design. While it reflects reasonably close similarity to the actual device
* in terms of performance, it is not suggested as a replacement for bread-
* boarding. Simulation should be used as a forerunner or a supplement to
* traditional lab testing.
*
* Users should very carefully note the following factors regarding these 
* models:
*
*     Model performance in general will reflect typical baseline specs for a
*     given device, and certain aspects of performance may not be modeled
*     fully.
*
*     While reasonable care has been taken in their preparation, we cannot be
*     responsible for correct application on any and all computer systems.
*
*     In all cases, the current data sheet information for a given real device
*     is your final design guideline, and is the only actual performance
*     guarantee.  For further technical information, refer to individual device
*     data sheets.
*
*     Model users are hereby notified that these models are supplied "as is",
*     with no direct or implied responsibility on the part of Advanced Linear
*     Devices for their operation within a customer circuit or system. Further,
*     ALD reserves the right to change these models without prior notice. 
*
*     The macromodels listed in this library represent typical performance 
*     characteristics, without offset (Vos) adjustment, or other 
*     parameters that would allow for Monte Carlo simulation of these circuits. 
*     
*     Advanced Linear Devices provides a separate library of ASIC standard cell
*     functions such as operational amplifiers, timers, and comparators as well
*     as resistors, capacitors, and individual transistors and diodes for func-
*     tion specific integrated circuit design. This ASIC verification library 
*     contains a comprehensive set of parametric values to be used in Monte 
*     Carlo simulation of user designed integrated circuits. Contact your 
*     Advanced Linear Devices representative for more information. 
* -----------------------------------------------------------------------------
*    
* Your feedback and suggestions on these (and future) models will be
* appreciated.
*
*
* Advanced Linear Devices, Inc.
* Customer Support Group
* 415 Tasman Drive
* Sunnyvale, California. 94089
* Tel: (408) 747-1155 
* Fax: (408) 747-1286
* techsupport@aldinc.com
* -----------------------------------------------------------------------------
*
* trans.lib
*----------------------------------
* N channel TRANSISTORS
*----------------------------------
*
*          listing of single integrated 1101 transistors.
*          Five terminal N-channel transistors, no gate protection.
*   1101a  2mv ultra precision matched transistor.
*   1101b  5mv precision matched transistor.
*   1101   11mv matched transistor.
*   1101g  50mv general purpose transistor.
*   1106   11mv matched transistor
*
*   1101's are five terminal single integrated N-channel transistor, with no gp.
*
*      1101x General similar to the packaged transistor 4 terminal, but
*         no substrate diode, or parasitic npn.
.subckt 1101x 1 2 3 4 params: vtn=0.0
m1 1 2 3 4 nca l=7.8e-6 w=1.106e-3 as=4.825e-8 ps=3.82e-3 ad=1.286e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
.ends
*
*             d g s b v+
.subckt 1101a 1 2 3 4 5 params: vtn=0.0
m1 1 2 3 4 nca l=7.8e-6 w=1.106e-3 as=4.825e-8 ps=3.82e-3 ad=1.286e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35

dps 4 5 dps 6.5e-8
.ends
*
*             d g s b v+
.subckt 1101b 1 2 3 4 5 params: vtn=0.0
m1 1 2 3 4 nca l=7.8e-6 w=1.106e-3 as=4.825e-8 ps=3.82e-3 ad=1.286e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
dps 4 5 dps 6.5e-8
.ends
*
*            d g s b v+
.subckt 1101 1 2 3 4 5 params: vtn=0.0
m1 1 2 3 4 ncg l=7.8e-6 w=1.106e-3 as=4.825e-8 ps=3.82e-3 ad=1.286e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
dps 4 5 dps 6.5e-8
.ends
*
*             d g s b v+
.subckt 1101g 1 2 3 4 5 params: vtn=0.0
m1 1 2 3 4 ncg l=7.8e-6 w=1.106e-3 as=4.825e-8 ps=3.82e-3 ad=1.286e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
dps 4 5 dps 6.5e-8
.ends
*
*            d g s b v+
.subckt 1106 1 2 3 4 5 params: vtn=0.0
m1 1 2 3 4 ncg l=7.8e-6 w=0.138e-3 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
dps 4 5 dps 0.8e-8
.ends
*
*
*-------------------------
* P channel TRANSISTORS
*--------------------
*          listing of single integrated 1102 transistors.
*          four terminal P-channel transistors, no gate protection.
*   1102a  2mv ultra precision matched transistor.
*   1102b  5mv precision matched transistor.
*   1102   11mv matched transistor.
*   1102g  40mv general purpose transistor.
*   1107   11mv matched transistor   
*
*             d g s b/v+
.subckt 1102i 1 2 3 4 params: vtp=0.0
* (a five terminal device does not exist.)
mt 1 2 3 4 pca l=7.8e-6 w=1.106e-3 as=4.825e-8 ps=3.82e-6 ad=1.286e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
.ends
*
*
.subckt 1102a 1 2 3 4 params: vtp=0.0
mt 1 2 3 4 pca l=7.8e-6 w=1.106e-3 as=4.825e-8 ps=3.82e-6 ad=1.286e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
.ends
*
.subckt 1102b 1 2 3 4 params: vtp=0.0
mt 1 2 3 4 pca l=7.8e-6 w=1.106e-3 as=4.825e-8 ps=3.82e-6 ad=1.286e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
.ends
*
.subckt 1102 1 2 3 4 params: vtp=0.0
mt 1 2 3 4 pcg l=7.8e-6 w=1.106e-3 as=4.825e-8 ps=3.82e-6 ad=1.286e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
.ends
*
.subckt 1102g 1 2 3 4 params: vtp=0.0
mt 1 2 3 4 pcg l=7.8e-6 w=1.106e-3 as=4.825e-8 ps=3.82e-6 ad=1.286e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
.ends
*
.subckt 1107 1 2 3 4 params: vtp=0.0
mt 1 2 3 4 pcg l=7.8e-6 w=0.138e-3 as=0.603e-8 ps=0.478e-6 ad=0.161e-8
+                                  nrd=.3 nrs=1 nrg=25 nrb=35
.ends
*
*
*-------------------------

